US04593034
N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-naphthalenecarboxamide, hydrochloride [1:1]
A solution of 1.69 g (0.00768 mole) of 3-methoxy-2-naphthoic acid chloride in 15 ml of methylene chloride was added dropwise to a stirred solution of 0.97 g (0.00768 mole) of 3-aminoquinuclidine in 25 ml of methylene chloride in a closed system equipped with an oil bubbler. The reaction mixture was stirred overnight at ambient temperature, and then concentrated to give an off-white glassy solid. Two recrystallizations from methanol-isopropyl ether gave 1.95 g (73.4%) of the product as an off-white solid which was vacuum dried at ambient temperature, m.p. 248°-252° C. Analysis: Calculated for C19H23N2O2Cl: H,6.68; N,8.08. Found: C,65.40; H,6.72; N,8.01.

reactant | 3-methoxy-2-naphthoic acid chloride | 0.00768 mole, 1.69 g | COC=1C(=CC2=CC=CC=C2C1)C(=O)Cl | C12H9ClO2
reactant | 3-aminoquinuclidine | 0.00768 mole, 0.97 g | NC1CN2CCC1CC2 | C7H14N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-naphthalenecarboxamide, hydrochloride | 1.95 g, 73.4% | Cl.N12CC(C(CC1)CC2)NC(=O)C2=CC1=CC=CC=C1C=C2OC | InChI=1S/C19H22N2O2.ClH/c1-23-18-11-15-5-3-2-4-14(15)10-16(18)19(22)20-17-12-21-8-6-13(17)7-9-21;/h2-5,10-11,13,17H,6-9,12H2,1H3,(H,20,22);1H
